US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.19 g, 0.658 mmol) and 3-bromopropyl phenyl ether (0.17 mL, 1.07 mmol) in 2CH3CN/3CHCl3 (15 mL) were reacted to give the desired product (0.146 g, 45%). EI-MS m/z 423 (M+), 1H NMR (400 MHz, CD3OD) δ 7.5 (m, 4H), δ 7.35 (m, 3H), δ 7.3-7.2 (m, 4H), δ 6.9 (m, 4H), δ 4.07 (m, 3H), 3.8-3.7 (m, 2H), δ 3.62 (m, 5H), δ 3.6-2.5 (m, 2H), δ 2.4-2.3 (m, 2H), δ 2.3-2.1 (m, 5H).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.658 mmol, 0.19 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 3-bromopropyl phenyl ether | 1.07 mmol, 0.17 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
product | 4-[cyano(diphenyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide | 0.146 g, 45% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2O.BrH/c30-23-29(25-11-4-1-5-12-25,26-13-6-2-7-14-26)28-17-20-31(24-28,21-18-28)19-10-22-32-27-15-8-3-9-16-27;/h1-9,11-16H,10,17-22,24H2;1H/q+1;/p-1
